US05272171
4-(Dibenzylphosphonooxy)butyl 1H-imidazole-1-carboxylate
4-(Dibenzylphosphonooxy)-1-butanol (974 mg, 2.78 mmol) in dry dichloromethane (10 mL) was treated with N,N-diisopropylethylamine (0.629 mL, 3.61 mmol). After 5 min, carbonyl diimidazole (586 mg, 3.61 mmol) and 4-dimethylaminopyridine (68.0 mg, 0.556 mmol) were added. The solution was stirred at room temperature for 16 h, then diluted with ethyl acetate. The organics were then washed sequentially with water, 0.1N aqueous HCl, saturated aqueous sodium bicarbonate and brine. The solution was dried and concentrated to give an oil. Chromatography on silica gel (eluted with ethyl acetate) gave 1.16 g (94%) of the title product as an oil; 1H-NMR (CDCl3) δ ppm: 8.09 (s, 1H) 7.37-7.29 (m, 11H) 7.04 (s, 1H) 5.08-4.96 (m, 4H) 4.34 (t, 2H) 3.99 (q, 2H) 1.82-1.66 (m, 4H); HRMS calcd for C22H26N 2 O6P (MH+): 445.1529, found: 445.1539.

reactant | 4-(Dibenzylphosphonooxy)-1-butanol | 2.78 mmol, 974 mg | C(C1=CC=CC=C1)OP(=O)(OCC1=CC=CC=C1)OCCCCO | C18H23O5P
reactant | N,N-diisopropylethylamine | 3.61 mmol, 0.629 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | carbonyl diimidazole | 3.61 mmol, 586 mg | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 0.556 mmol, 68.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | 4-(Dibenzylphosphonooxy)butyl 1H-imidazole-1-carboxylate | 1.16 g, 94% | N1(C=NC=C1)C(=O)OCCCCOP(=O)(OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C22H25N2O6P
